US05583232
E. (2S,3S,5S)-2-(N-(N-((2-(2-Isopropyl-4-thiazolyl)ethoxy)carbonyl)valinyl)amino)-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
Using the procedure of Example 1U, but replacing N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine with N-((2-(2-isopropyl-4-thiazolyl)ethoxy)carbonyl)valine and replacing (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane with (2S,3S,5S)-2-amino-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane provided, after purification by silica gel chromatography using 99:1 CHCl3 :CH3OH, 50 mg (30%) of the desired compound (Rf 0.3, 95:5 CHCl3 :CH3OH) as a solid, mp 159°-160° C. Mass spectrum: (M+H)+ =722 HRMS. Exact mass calcd for C37H47N5O6S2 : 722.3046. Found: 722.3036.

reactant | N-((2-(2-isopropyl-4-thiazolyl)ethoxy)carbonyl)valine | C(C)(C)C=1SC=C(N1)CCOC(=O)N[C@@H](C(C)C)C(=O)O | C14H22N2O4S
reactant | (2S,3S,5S)-2-amino-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O | C23H27N3O3S
product | (2S,3S,5S)-2-(N-(N-((2-(2-Isopropyl-4-thiazolyl)ethoxy)carbonyl)valinyl)amino)-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | C(C)(C)C=1SC=C(N1)CCOC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O | C37H47N5O6S2
